US07612055B2
b) [(R)-3-Methyl-1-(4-methyl-5-oxo-tetrahydro-furan-2-yl)-hex-5-enyl]-carbamic acid tert-butyl ester (mixture of diastereomers)
Under nitrogen atmosphere to 20 ml thoroughly degassed toluene are subsequently added 0.63 g (0.31 mmol) hydrido(triphenylphosphine)copper(I) hexamer, 2.9 ml polymethylhydrosiloxane and a (degassed) solution of 5.7 g (19.3 mmol) [(R)-3-methyl-1-(5-oxo-2,5-dihydro-furan-2-yl)hex-5-enyl]-carbamic acid tert-butyl ester in toluene. After stirring for 2 h at 25° C. 6 mg (0.01 mmol) of R(+)-2,2′-bis-(diphenylphosphino)-6,6′-dimethoxy-1,1-biphenyl are added as an accelerating ligand for the copper complex. After 12 h the mixture is diluted with ethyl acetate and washed with water, 5% aqueous citric acid and 5% aqueous NaHCO3. Chromatography on silica gel (EtOAc/hexane 1:9, then 1:3) provides the title compound as a diastereomeric mixture.

reactant | [(R)-3-methyl-1-(5-oxo-2,5-dihydro-furan-2-yl)hex-5-enyl]-carbamic acid tert-butyl ester | 19.3 mmol, 5.7 g | C(C)(C)(C)OC(N[C@H](CC(CC=C)C)C1OC(C=C1)=O)=O | C16H25NO4
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | hydrido(triphenylphosphine)copper(I) hexamer | 0.31 mmol, 0.63 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Cu].[Cu].[Cu].[Cu].[Cu].[Cu]
product | [(R)-3-Methyl-1-(4-methyl-5-oxo-tetrahydro-furan-2-yl)-hex-5-enyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H](CC(CC=C)C)C1OC(C(C1)C)=O)=O | C17H29NO4
